Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
fall
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
In brief, this patient is a ___ year old female with a history of 
hypertension and hypothyroidism presenting after fall from 
standing 2 days prior to admission. She reports LOC and does not 
remember details of the fall. Presented to OSH and CT with 
concern for possible C2 spinous process fx and manubrium 
fracture with 1 cm retrosternal hematoma. She was then 
transferred to ___ for further management on the ___ team. Her 
H/H has been stable. Neurosurgery consulted for evaluation of 
possible C2 fracture. Had an MRI that demonstrated no acute 
spinal cord pathology with extensive ligamentous injury. They 
did not recommend surgical intervention and recommended 6 weeks 
in hard collar and 6 week follow-up with Dr. ___. 
 
In addition, prior to the fall, she felt slightly unstable and 
with some lightheadedness, which she has noticed in the past 
when she stands quickly. She felt general fatigue when she stood 
from the fall, but was able to walk up a flight of stairs. At 
baseline, she walks without a walking aid, though with long 
distances, will use a cane. Recalls ___xplainable by her tripping on something. The most recent 10 
days ago, during which she hit her head when she fell backwards 
while weeding.

Immediately prior to the fall, denies palpitations, shortness of 
breath, or chest pain. Denies previous cardiac history. Did not 
notice any convulsions of the limbs and denies any biting of the 
tongue. Denies any changes in diet, though has noticed decreased 
appetite over the past several month. Denies previous episodes 
of LOC.  

Denies dysuria but does have urinary hesitancy for the last 
month.
Denies fevers or chills. Denies vomiting or diarrhea. 

Patient was transferred to medicine for syncope work-up. 
 
Past Medical History:
Hypothyroidism
Hypertension
Glaucoma
Cataracts s/p surgery bilaterally
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
EXAM ON ADMISSION:
==================
VS: 97.3 100 110/60 18 97%Ra
Gen: well-appearing woman, appears younger than stated age
No resp distress, breathing easily on room air
A&O x3, GCS 15
No sternal tenderness
Mild brusing over upper sacrum and R hip
Upper C, Upper t-spine, lower L-spine tenderness
No pain to ranging of extremities
Neurovascularly intact throughout

Exam on discharge:
==================
VITALS: T 98.2, BP 106-121/43-57 (121/43), HR 72, RR 16, 95% on 
RA 
BP lying: 129/56
BP standing: 117/88
GENERAL: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM  
NECK: Wearing hard collar  
RESP: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmur, rubs, 
gallops  
ABD: +BS, soft, nondistended, nontender to palpation. 
GU: no foley  
EXT: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
NEURO: CNs2-12 intact, upper and lower extremity strength ___. 
No sensation loss.

 
Pertinent Results:
LABS ON ADMISSION:
==================
___ 10:15PM   WBC-11.8* RBC-3.21* HGB-10.5* HCT-31.5* 
MCV-98 MCH-32.7* MCHC-33.3 RDW-13.2 RDWSD-47.7*
___ 10:15PM   NEUTS-87.2* LYMPHS-6.8* MONOS-5.2 EOS-0.0* 
BASOS-0.2 IM ___ AbsNeut-10.32* AbsLymp-0.81* AbsMono-0.61 
AbsEos-0.00* AbsBaso-0.02
___ 10:15PM   PLT COUNT-177
___ 10:15PM   GLUCOSE-183* UREA N-29* CREAT-1.2* SODIUM-136 
POTASSIUM-5.3* CHLORIDE-104 TOTAL CO2-21* ANION GAP-16
___ 10:35PM URINE  RBC-3* WBC-24* BACTERIA-FEW YEAST-NONE 
EPI-1 TRANS EPI-<1
___ 10:35PM URINE  BLOOD-TR NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-10 BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-MOD
___ 10:35PM URINE  COLOR-Yellow APPEAR-Clear SP ___

MICROBIOLOGY:
=============
UCx ___: gram negative rods

IMAGING:
========
___hest I-:
"Impression: Oblique essentially nondisplaced fracture of the
manubrium. There is increased reterosternal soft tissue at this
level measuring up to 1cm compatible with associated 
retrosternal
hematoma. No definite vascular injury or acute parenchymal
hematoma."

___/p I-:
"Impression: No definite solid organ injury on this noncontrast
study. No evidence of hollow organ injury"

___ CT Head and C-spine ___ second read:
IMPRESSION:  
1. A small lucency suggests lateral to the base of the dens on 
the left may represent the previously described small 
nondisplaced fracture of C2 (9:28).  Without thin reformations, 
it is difficult to distinguish between a small fracture or 
artifact. 
  
2. No acute intracranial hemorrhage.

___ MRI C-Spine:
IMPRESSION: 
1. Likely ventral epidural hematoma measuring approximately 3 mm 
in greatest thickness, extending from C4-T1 vertebrae. 
2. Acute compression deformity involving the T5 vertebrae with 
loss of height by approximately 40%. 
3. Marrow edema involving C6 vertebrae without definite fracture 
line
identified.  While this may represent degenerative changes, 
given the history of trauma, this could represent marrow 
contusion. 
4. Edema involving the posterior atlanto occipital and posterior 
atlanto axial membranes, an interspinous ligaments spanning 
C3-C6 and paraspinal musculature from C3-C6 vertebrae, likely 
posttraumatic in etiology. 
5. Joint effusion involving bilateral suboccipital and C1-C2 
articulations as well as atlantoaxial interval with edema in the 
region of the transverse ligament, favored to be degenerative in 
etiology.  However, ligament sprain is not completely excluded 
given the history of trauma and other sites of ligamentous 
injury. 
6. No evidence of spinal cord injury. 
7. Multilevel multifactorial degenerative disease in the 
cervical spine, worst at C5-C6 with severe bilateral neural 
foraminal narrowing and severe spinal canal stenosis as 
described above.  Multiple other levels of severe spinal canal 
stenosis secondary to disc protrusion, facet arthropathy and 
epidural hematoma as described above.

EKG ___: Regular, sinus rhythm. Left axis deviation. No 
interval prolongations. No acute ischemia.

Discharge labs:
===============
___ 04:54AM BLOOD WBC-7.1 RBC-2.72* Hgb-8.9* Hct-26.4* 
MCV-97 MCH-32.7* MCHC-33.7 RDW-13.3 RDWSD-47.6* Plt ___
___ 04:54AM BLOOD Glucose-90 UreaN-18 Creat-1.0 Na-138 
K-4.4 Cl-107 HCO3-24 AnGap-11
 
Brief Hospital Course:
This is a ___ year old woman who was admitted to ___ as a 
trauma status post fall from standing.

Initial CT obtained at an outside hospital was notable for an 
oblique nondisplaced fracture of the manubrium with retrosternal 
hematoma. CT of abdomen and pelvis was negative for solid organ 
injury.

CT head at outside hospital was negative. CT neck showed a 
possible C2 fracture. The patient was evaluated by neurosurgery. 
No neurosurgical intervention was indicated. She had an MRI that 
showed degenerative changes and ligamentous injuries, and did 
not show C2 fracture. Other findings are noted above. 
Neurosurgery recommended hard cervical collar and follow-up in 
their clinic in ___ weeks. 

Given the patient's retrosternal hematoma, she had serial 
hematocrits drawn, which were stable. She was then started on 
subcutaneous heparin for DVT prophylaxis.

The patient complained of urinary hesitancy on admission. 
Routine urine culture taken on admission was positive for gram 
negative rods. The patient was started on ciprofloxacin for 
urinary tract infection and will continue with 7 day course 
(last day = ___.

As her fall was possibly syncopal in nature, the patient was 
transferred to the medicine service after her trauma workup and 
tertiary survey were completed and negative for trauma surgical 
issues.  Orthostatic blood pressures were normal. She had no 
murmur, an EKG was normal, and she was monitored on telemetry 
with no abnormalities. No history or signs of seizure activity. 
Her fall was most likely due to unstable balance and possibly 
tripping. This could be vasovagal though with no clear triggers.

The patient had physical therapy and occupational therapy 
consults. They recommended home ___ and ___ services. 

Transitional issues:
====================
[ ] wear hard cervical collar for 6 weeks
[ ] follow up in 6 weeks with neurosurgery Dr. ___, 
___ ___ 
[ ] complete ciprofloxacin course for 7 days for UTI, last day = 
___ 
[ ] outpatient follow-up for concern of feeling more forgetful 
in the past ___ weeks 
[ ] home ___ and ___ services as recommended by ___
[ ] increased vitamin D dose to ___ mg daily 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 75 mcg PO DAILY 
2. Lisinopril 20 mg PO DAILY 
3. Multivitamins 1 TAB PO DAILY 
4. Vitamin D 400 UNIT PO DAILY 
5. Zioptan (PF) (tafluprost (PF)) 0.0015 % ophthalmic DAILY 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
RX *acetaminophen 650 mg 1 tablet(s) by mouth every 6 hours Disp 
#*30 Tablet Refills:*0
2. Vitamin D ___ UNIT PO DAILY 
RX *ergocalciferol (vitamin D2) 2,000 unit 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0
3. Ciprofloxacin HCl 250 mg PO Q24H 
RX *ciprofloxacin HCl 250 mg 1 tablet(s) by mouth daily Disp #*4 
Tablet Refills:*0
4. Levothyroxine Sodium 75 mcg PO DAILY 
5. Multivitamins 1 TAB PO DAILY 
6. Zioptan (PF) (tafluprost (PF)) 0.0015 % ophthalmic DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Sternum fracture with hematoma
Cervical ligamentous injury
Urinary Tract Infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you!

Why was I here? 
- You had a fall and had a fracture of your sternum (your chest 
bone between the ribs), a hematoma (bleed) behind the bone, and 
a strain to the ligaments in your neck. 

What was done while I was here?
- The sternum fracture will continue to heal over time and does 
not require surgery.  
- Your blood levels were closely watched and you did not need a 
blood transfusion.
- You had an MRI of your spine and was seen by the neurosurgery 
spine team. Surgery was not needed and recommended that you wear 
a hard cervical collar for 6 weeks.
- You were found to have a urinary tract infection and started 
antibiotics. You will take this medicine through ___. 
- You were assessed to determine what caused your fall and 
thought it was most likely from feeling unbalanced or tripping.
- You saw physical therapy and occupational therapy. 

What should I do when I get home? 
- Continue to wear your neck collar for 6 weeks.
- Continue taking your medicines as prescribed.
- Take the antibiotics for 7 days total (last day is ___.

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___